US06696597B2
These metathesis reactions are run neat, usually in equal molar ratios of symmetrical dihalides and diacetoxy compounds, and the unreacted starting materials are recycled back into the next metathesis reaction. The yields are typically around 50% reactor volume efficiencies (i.e. 50% of the reactor's volume is product). The starting symmetrical dihalides and diacetoxy compounds are generally available from commercial sources or by easy conversions of alcohols to halides. They are also preferably selected to afford the greatest ease of isolating the omega-haloalkenol from the starting materials, such as by selecting the stating materials based on the differences between their boiling points and that of the omega-haloalkenol product. For example, in the cross-metathesis reaction between 1,6-dibromo-3-hexene and 1,10-diacetoxy-5-decene to yield 8-bromo-5-octenyl acetate, these starting materials were choosen because of the large differences in their boiling points: 1,6-dibromo-3-hexene Bpt1.0 mmHg 84°-85° C., 8-bromo-5-octenyl acetate Bpt1.0 mmHg 110° C.-112° C. and 1,10-diacetoxy-5-decene Bpt1.0 mmHg 158° C.-162° C.

reactant | 1,6-dibromo-3-hexene | BrCCC=CCCBr | C6H10Br2
reactant | 1,10-diacetoxy-5-decene | C(C)(=O)OCCCCC=CCCCCOC(C)=O | C14H24O4
product | 8-bromo-5-octenyl acetate | C(C)(=O)OCCCCC=CCCBr | C10H17BrO2
